US06303790B1
92 ml (92 mMol) o-Tolylmagnesium chloride solution (1M in THF) were added over 15 minutes to a solution of 5.0 g (23 mMol) N-tert.-butyl-6-chloro-nicotinamide in 25 ml THF cooled to 0° C. The reaction mixture was stirred 18 hours at 30° C. and cooled again to 0° C. 5.6 ml (138 mMol) Methanol were added over 30 minutes, stirring was pursued for 10 minutes and 6.3 g (27 mMol) 2,3-dichloro-5,6-dicyano-1,4-benzoquinone were added. After 1 hour at room temperature, the reaction mixture was concentrated to 50 g under reduced pressure, heated to 50° C. and 100 ml tert.-butyl-methylether were added. The resulting suspension was refluxed for 30 minutes, cooled to room temperature and, after 1 hour, filtered off. The filtrate was concentrated and dried under high vacuum to yield 6.3 g (90%) of N-tert.-butyl-6-chloro-4-o-tolyl-nicotinamide as an orange foam.

reactant | o-Tolylmagnesium chloride | 92 mMol, 1M, 92 ml | C1(=C(C=CC=C1)[Mg]Cl)C
reactant | N-tert.-butyl-6-chloro-nicotinamide | 23 mMol, 5.0 g | C(C)(C)(C)NC(C1=CN=C(C=C1)Cl)=O | C10H13ClN2O
reactant | Methanol | 138 mMol, 5.6 ml | CO | CH4O
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 27 mMol, 6.3 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | N-tert.-butyl-6-chloro-4-o-tolyl-nicotinamide | 6.3 g, 90% | C(C)(C)(C)NC(C1=CN=C(C=C1C1=C(C=CC=C1)C)Cl)=O | C17H19ClN2O
